US05688946
3.49 g (11.8 mmol) of tert-butyl [2-(benzylthio)-2-methylpropyl]carbamate dissolved in 10 ml of ether are placed in a flask which is fitted with an ammonia condenser and a gas inlet. The solution is cooled to -78°, thereafter about 35 ml of ammonia are condensed in. Sodium (about 1 g) in small pieces is added to this solution until the blue colour of the solution persists. The mixture is allowed to warm slowly, the excess sodium is destroyed by the addition of ammonium chloride (about 3.5 g) and the ammonia is blown off using nitrogen. The residue is partitioned between 50 ml of water and 250 ml of ether. The organic phase is separated, dried over sodium sulphate and evaporated. There are obtained 2.29 g of tert-butyl [2-methyl-2-mercaptopropyl]carbamate as a colourless solid; MS: 149 (M-C4H8)+.

reactant | tert-butyl [2-(benzylthio)-2-methylpropyl]carbamate | 11.8 mmol, 3.49 g | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)(C)C | C16H25NO2S
reactant | ammonia | about 35 ml | N | H3N
reactant | Sodium | about 1 g | [Na] | Na
solvent | ether | 10 ml | CCOCC | C4H10O
product | tert-butyl [2-methyl-2-mercaptopropyl]carbamate | 2.29 g | CC(CNC(OC(C)(C)C)=O)(C)S | C9H19NO2S
